US08232286B2
CIS- AND TRANS-4-PYRROLIDIN-1-YL-CYCLOHEXYLAMINE (HYDROCHLORIDE)
2.2 g (6.1 mmol) trans-dibenzyl-(4-pyrrolidin-1-yl-cyclohexyl)-amine are placed in 40 ml of methanol and 0.4 g palladium/charcoal (10%) are added. The mixture is hydrogenated at 5 bar and 20° C. Then the catalyst is suction filtered, the mother liquor is combined with conc. hydrochloric acid and concentrated by evaporation. The residue is stirred out with acetone.

reactant | trans-dibenzyl-(4-pyrrolidin-1-yl-cyclohexyl)-amine | 6.1 mmol, 2.2 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)N1CCCC1)CC1=CC=CC=C1 | C24H32N2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium/charcoal | 0.4 g | [Pd] | Pd
product | TRANS-4-PYRROLIDIN-1-YL-CYCLOHEXYLAMINE | N1(CCCC1)[C@@H]1CC[C@H](CC1)N | C10H20N2
